### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Bicategory): Spans with left and right legs satisfying given morphism properties

### PR DESCRIPTION
**Pull request by robin-carlier**
In this PR, we define a structure `Span Wₗ Wᵣ c c'` which bundles the data of spans in `C` from `c` to `c'` where the left map satisfies `Wₗ` and the right map satisfies `Wᵣ`. When `Wₗ` and `Wᵣ` are adequate, we define the identity span and the composition of compatible spans.

In a later pull request, this will be extended to be the 1-morphisms of a bicategory structure on a type alias of `C`.

From [SymmMonCoherence](https://github.com/robin-carlier/SymmMonCoherence)

---

- [x] depends on: #39534
- [x] depends on: #39647 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,140 @@
...
+
+public import Mathlib.CategoryTheory.MorphismProperty.Limits
+public import Mathlib.CategoryTheory.LocallyCartesianClosed.ChosenPullbacksAlong
+
+/-! # Bicategories of spans in a category
+
+In this file, given a category `C` and two morphism properties
+Wₗ Wᵣ in C satisfying suitable assumptions regarding identities and base changes,
+we construct the bicategory of spans in C with left morphism in Wₗ and right morphism
+in Wᵣ.
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]:
```suggestion
in Wᵣ (TODO @robin-carlier).
```

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+  /-- the right map -/
+  r : apex ⟶ c'
+  wl : Wₗ l
+  wr : Wᵣ r
+
+namespace Span
+
+variable {Wₗ Wᵣ} {c c' : C}
+
+/-- A morphism of span is a morphism between the apices compatible
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]:
```suggestion
/-- A morphism of spans is a morphism between the apices compatible
```

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,140 @@
...
+
+@[ext, grind ext]
+lemma hom_ext {S S' : Span Wₗ Wᵣ c c'} {f g : S ⟶ S'} (h : f.hom = g.hom) :
+    f = g := by
+  cases f; cases g
+  grind
+
+set_option mathlib.tactic.category.grind true in
+/-- Construct an isomorphism of spans from an isomorphism between the
+apices that is compatible with the projections -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]:
```suggestion
apices that is compatible with the projections. -/
```

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,140 @@
...
+  comp φ φ' := { hom := φ.hom ≫ φ'.hom }
+  id S := { hom := 𝟙 _ }
+
+attribute [grind =] id_hom comp_hom
+
+@[ext, grind ext]
+lemma hom_ext {S S' : Span Wₗ Wᵣ c c'} {f g : S ⟶ S'} (h : f.hom = g.hom) :
+    f = g := by
+  cases f; cases g
+  grind
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]:
```suggestion
  cases f
  cases g
  grind
```

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,140 @@
...
+total span
+```
+     P
+    /  \
+   /    \
+  X₁     X₂
+ /  \   /  \
+c     c'    c''
+```
+where the top diamond is a pullbacks square
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]:
```suggestion
where the top diamond is a pullback square
```

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,140 @@
...
+-/
+module
+
+public import Mathlib.CategoryTheory.MorphismProperty.Limits
+public import Mathlib.CategoryTheory.LocallyCartesianClosed.ChosenPullbacksAlong
+
+/-! # Bicategories of spans in a category
+
+In this file, given a category `C` and two morphism properties
+Wₗ Wᵣ in C satisfying suitable assumptions regarding identities and base changes,
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]: Can you make precise here what the "suitable assumptions" are?

File: Mathlib/CategoryTheory/Bicategory/Span/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,140 @@
...
+variable [Wₗ.ContainsIdentities] [Wᵣ.ContainsIdentities] [Wₗ.HasPullbacksAgainst Wᵣ]
+    [Wₗ.IsStableUnderBaseChangeAgainst Wᵣ] [Wᵣ.IsStableUnderBaseChangeAgainst Wₗ]
+    [Wₗ.IsStableUnderComposition] [Wᵣ.IsStableUnderComposition]
+
+instance {c c' c'' : C}
+    (S₁ : Span Wₗ Wᵣ c c') (S₂ : Span Wₗ Wᵣ c' c'') :
+    Limits.HasPullback S₁.r S₂.l :=
+  letI : Limits.HasPullback S₂.l S₁.r :=
+    Limits.hasPullback_ofHasPullbacksAgainst S₂.wl S₁.wr
+  Limits.hasPullback_symmetry _ _
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Span/Basic.lean]:
```suggestion
open Limits in
instance {c c' c'' : C} (S₁ : Span Wₗ Wᵣ c c') (S₂ : Span Wₗ Wᵣ c' c'') : HasPullback S₁.r S₂.l :=
  letI : HasPullback S₂.l S₁.r := hasPullback_ofHasPullbacksAgainst S₂.wl S₁.wr
  hasPullback_symmetry _ _
```
I think this looks nicer, but it's up to you

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by robin-carlier** [comment]
Thanks!

bors r+
